US06319946B1
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-1-benzyl-3-((5-[(dimethylamino)carbonyl]amino-2,2-dimethylpentyl)[3-(methylamino)phenyl]sulfonylamino)-2-hydroxypropyl]carbamate
A solution of 50 mg (0.081 mmol) of (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-((5-amino-2,2-dimethylpentyl)[3-(methylamino)phenyl]sulfonylamino)-1-benzyl-2-hydroxypropyl]carbamate and 17 μL (0.097 mmol) of N,N-diisopropylethylamine in 5 mL of anhydrous THF at 0° C. was treated with 8.2 μL (0.089 mmol) of N,N-dimethylcarbamyl chloride. The solution was allowed to warm to RT with stirring. After 18 hours the solution was concentrated in vacuo and the residue was subjected to flash chromatography (SiO2, 95:5 CH2Cl2/2M NH3 in MeOH) to afford 44 mg (79%) of the desired compound as a white foam. H1-NMR (CDCl3): δ 7.31-7.11 (m, 6H), 7.03 (d, 1H), 6.95 (s, 1H), 6.73 (d, 1H), 5.92 (d, 1H), 5.60 (d, 1H), 4.94 (q, 1H), 4.63 (t, 1H), 4.19 (m, 2H), 3.94-3.73 (m, 4H), 3.63 (m, 2H), 3.30-3.00 (m, 6H), 2.91-2.78 (m, 11H), 2.69 (dd, 1H), 1.59-1.19 (m, 6H), 0.94 (s, 3H), 0.86 (s, 3H). MS(ESI): 690(M+H).

reactant | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-3-((5-amino-2,2-dimethylpentyl)[3-(methylamino)phenyl]sulfonylamino)-1-benzyl-2-hydroxypropyl]carbamate | 0.081 mmol, 50 mg | NCCCC(CN(C[C@H]([C@H](CC1=CC=CC=C1)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O)O)S(=O)(=O)C2=CC(=CC=C2)NC)(C)C | C31H46N4O7S
reactant | N,N-diisopropylethylamine | 0.097 mmol, 17 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylcarbamyl chloride | 0.089 mmol, 8.2 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-[(1S,2R)-1-benzyl-3-((5-[(dimethylamino)carbonyl]amino-2,2-dimethylpentyl)[3-(methylamino)phenyl]sulfonylamino)-2-hydroxypropyl]carbamate | 44 mg, 79% | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC(=CC=C1)NC)CC(CCCNC(=O)N(C)C)(C)C)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C34H51N5O8S
